US04680413
12.62 g (225.0 m mol) of potassium hydroxide was dissolved in 80 ml of methanol. While being cooled at a temperature 0° to 10° C., the solution was fed with 12.10 g (50.0 m mol) of alpha-cyano-2,3-dichlorocinnamic acid and the mixture was stirred for 20 min. in the same temperature range. A solution of 10.25 g (52.5 m mol) of tosyl methylisocyanide in 70 ml of methylene chloride was added dropwise, at a temperature from 0° to 5° C., to the above mixture. The reaction mixture was then stirred for 30 min. at the same temperature to complete the reaction. Then, to the reaction mixture 50 ml of water was added and was neutralized to pH 8 by 10% HCl. From the neutralized mixture, methylene chloride and methanol was distilled off under reduced pressure, then, 100 ml of water was further added thereto and the mixture was stirred for 30 min. to precipitate crystals. The crystals were filtered off and washed with water and dried. 11.73 g of 3-(2,3-dichlorophenyl)-4-cyanopyrrole was obtained. Yield 99.0%, Melting point 152°-153° C.

reactant | potassium hydroxide | 12.62 g | [OH-].[K+]
reactant | alpha-cyano-2,3-dichlorocinnamic acid | 12.10 g | C(#N)C(C(=O)O)=CC1=C(C(=CC=C1)Cl)Cl | C10H5Cl2NO2
reactant | tosyl methylisocyanide | 10.25 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | HCl | Cl | ClH
reactant | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 80 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | 3-(2,3-dichlorophenyl)-4-cyanopyrrole | 11.73 g, Yield 99.0% | ClC1=C(C=CC=C1Cl)C1=CNC=C1C#N | C11H6Cl2N2
